US05272171
4,4,5,7-Tetramethyl-3,4-dihydrocoumarin (IIIa)
3,5-Dimethylphenol (IIa) (3.2 g, 26.2 mmol), ethyl 3,3-dimethylacrylate (5 mL, 36 mmol, 1.4 eq.) and concentrated sulfuric acid (1.5 mL) were dissolved in anhydrous benzene (30 mL), and the reaction mixture was heated to reflux for 2 h. The reaction mixture was cooled to room temperature and washed successively with water (2×40 mL), 5% aqueous NaHCO3 solution (2×20 mL), brine (2×20 mL) and dried over anhydrous sodium sulfate. After filtering off the desiccant, the solvent was removed under vacuum to obtain a dark brown gummy material. To this gummy material was added anhydrous ether (5 mL) and boiled for 2 min on a steam bath. The title compound, IIIa, (3.34 g, 16.4 mmol, Y: 62.4%) was crystallized out from the mixture upon cooling in an ice bath; mp, 95.8-96.3° C.; 1H-NMR (300 MHz, acetone-d6) δ ppm: 1.41 (6H, s, 4,4-Me2), 2.24 (3H, s, 5-Me), 2.46 (3H, s, 7-Me), 2.61 (2H, s, 3-H2), 6.68 (1H, s, Ar-H), 6.76 (1H, s, Ar-H); MS (Isobutane-DCI) m/e: 205 (M+H)+ ; IR (KBr) ν max: 1770, 1250, 1190, 870 cm-1.

reactant | 3,5-Dimethylphenol | 26.2 mmol, 3.2 g | CC=1C=C(C=C(C1)C)O | C8H10O
reactant | ethyl 3,3-dimethylacrylate | 36 mmol, 5 mL, 1.4 eq. | CC(=CC(=O)OCC)C | C7H12O2
reactant | sulfuric acid | 1.5 mL | S(O)(O)(=O)=O | H2O4S
reactant | ether | 5 mL | CCOCC | C4H10O
solvent | benzene | 30 mL | C1=CC=CC=C1 | C6H6
product | 4,4,5,7-Tetramethyl-3,4-dihydrocoumarin | CC1(CC(OC2=CC(=CC(=C12)C)C)=O)C | C13H16O2
